US07872014B2
1-(Chloromethyl)-2-(methyloxy)-3-{[2-(methyloxy)ethyl]oxy}benzene (0.33 g, 1.4 mmol) was dissolved in N,N-dimethylformamide (2 mL) followed by the addition potassium cyanide (0.12 g, 1.6 mmol), and the resulting mixture was heated at 60° C. for 18 hours. After cooling to room temperature, it was diluted with ethyl acetate (50 mL), washed with water and brine (20 mL each), dried over sodium sulfate, filtered and concentrated to give an oily residue which was purified by flash chromatography (50% ethyl acetate/hexanes) to provide (2-(methyloxy)-3-{[2-(methyloxy)ethyl]oxy}phenyl)acetonitrile (0.17 g, 0.76 mmol, 54% yield). 1H NMR (400 MHz, CDCl3): 7.03-7.00 (d, d, 1H), 6.95-6.89 (m, 2H), 4.16-4.14 (m, 2H), 3.94 (s, 3H), 3.79-3.77 (m, 2H), 3.70 (s, 2H), 3.44 (s, 3H).

reactant | 1-(Chloromethyl)-2-(methyloxy)-3-{[2-(methyloxy)ethyl]oxy}benzene | 1.4 mmol, 0.33 g | ClCC1=C(C(=CC=C1)OCCOC)OC | C11H15ClO3
reactant | potassium cyanide | 1.6 mmol, 0.12 g | [C-]#N.[K+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (2-(methyloxy)-3-{[2-(methyloxy)ethyl]oxy}phenyl)acetonitrile | 0.76 mmol, 0.17 g, 54% yield | COC1=C(C=CC=C1OCCOC)CC#N | C12H15NO3
